US05597848
Methyl 4-[4-(1-Amino-2-phenylethyl)phenyl]butyrate
To a solution of 3.10 g of methyl 4-[4-(1-azido-2-phenylethyl)phenyl]butyrate in 30 ml of methanol, 31 mg of platinum oxide was added, and hydrogenation was carried out at an ordinary temperature and under ordinary pressure for 4.5 hours. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure. The residue was added with dilute hydrochloric acid and washed with ether. The aqueous layer was made alkaline with potassium carbonate and then extracted with ether. The ether layer was washed with water and dried, and then the solvent was removed under reduced pressure to yield 2.16 g of brown oil.

reactant | methyl 4-[4-(1-azido-2-phenylethyl)phenyl]butyrate | 3.10 g | N(=[N+]=[N-])C(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H21N3O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | platinum oxide | 31 mg | [Pt]=O
product | Methyl 4-[4-(1-Amino-2-phenylethyl)phenyl]butyrate | 2.16 g | NC(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H23NO2
